US09102685B2
1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-formyl-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate
(3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-Hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysene-3a-carbaldehyde (26.9 g, 1 equiv), 4-(tert-butoxy)-3,3-dimethyl-4-oxobutanoic acid (14.96 g, 1.25 equiv) and THF (538 ml, 20 vol) were charged to a flask. Benzoyl chloride (10.4 g, 1.25 equiv) was added followed by slow addition of triethylamine (14.97 g, 2.5 equiv) forming a thick slurry. DMAP (0.1.81 g, 0.25 equiv) was added and the reaction was allowed to stir at ambient temperature for approximately 18 hours until complete by HPLC. Reaction was then charged with ethyl acetate (538 mL, 20 vol) and water (269 ml, 10 vol), stirred well and allowed to settle. Aqueous phase was removed and the organic phase washed with saturated sodium bicarbonate solution (2×10 vol) followed by water (269 mL, 10 vol). The reaction solution evaporated under vacuum to approximately 4 volumes to produce solids. Additional hexanes (269 ml, 10 vol) was added and reaction heated back to reflux to nearly form solution and slowly cooled to ambient temperature (seeding with desired product) and let stir for 15 minutes then cooled to 0° C. for approximately two hours and filtered solid. Washed solid with hexanes (2×10 vol) and dried at 50° C. under vacuum to a weight of 32.15 g, 85% yield of 1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-formyl-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate.

reactant | (3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-Hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysene-3a-carbaldehyde | 26.9 g, 1 equiv | O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)C=O)C)C)(C)C | C30H46O3
reactant | 4-(tert-butoxy)-3,3-dimethyl-4-oxobutanoic acid | 14.96 g, 1.25 equiv | C(C)(C)(C)OC(C(CC(=O)O)(C)C)=O | C10H18O4
reactant | Benzoyl chloride | 10.4 g, 1.25 equiv | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 14.97 g, 2.5 equiv | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.25 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 269 ml | O | H2O
solvent | ethyl acetate | 538 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 538 ml | C1CCOC1 | C4H8O
product | 1-tert-butyl 4-((3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-formyl-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)C=O)C)C)(C)C)C | C40H62O6
